US07902252B2
2.106. Synthesis of 4-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (97)
The title compound was synthesized from methyl 4-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.333 g, 1.20 mmol) and lithium hydroxide (0.508 g, 12.1 mmol in 5 mL water), according to General Procedure 7. A 1:1 mixture of water and methanol (4 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound. 0.265 g. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.17 (ddt, J=12.70, 8.55, 6.38, 6.38 Hz, 1H), 2.67-2.94 (m, 3H), 4.15 (t, J=7.15 Hz, 1H), 6.53 (s, 1H), 6.93-6.98 (m, 1H), 7.01 (ddd, J=11.87, 7.77, 2.12 Hz, 1H), 7.11 (dt, J=10.59, 8.37 Hz, 1H); 19F NMR (376 MHz, METHANOL-d4) δ ppm −145.22-−145.11 (m, 1F) −141.41-−141.30 (m, 1F); LCMS (ESI−) 262.0 (M−H); HPLC (UV=99.7%), (ELSD=100%).

reactant | methyl 4-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.20 mmol, 0.333 g | FC=1C=C(C=CC1F)C1CCC=2NC(=CC21)C(=O)OC | C15H13F2NO2
reactant | lithium hydroxide | 12.1 mmol, 5 mL, 0.508 g | [OH-].[Li+]
reactant | water | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | 4-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | FC=1C=C(C=CC1F)C1CCC=2NC(=CC21)C(=O)O | C14H11F2NO2
